US08405069B2
g. 2-Bromo-2-methyl-propionic acid 11-(diethoxy-phosphoryl)-undecyl ester
Diethyl 11-hydroxyundecylphosphonate (1.00 g, 3.24 mmol) and triethylamine (0.328 g, 3.24 mmol) were dissolved in ˜20 mL dry DCM in a 50 mL rbf under argon. This mixture was stirred and put in an ice bath. Bromo-isobutyryl bromide (0.719 g, 3.56 mmol) was added dropwise via syringe. After 3.5 hours a thin layer chromatogram (tlc) was taken in ethyl acetate. A column was run in ethyl acetate and the after removal of the solvent the desired compound was obtained as an orange oil (1.050 g, 75% yield). Analysis found (calculated) %: C, 47.56 (47.65); H, 7.98 (7.86).

reactant | Diethyl 11-hydroxyundecylphosphonate | 3.24 mmol, 1.00 g | OCCCCCCCCCCCP(OCC)(OCC)=O | C15H33O4P
reactant | triethylamine | 3.24 mmol, 0.328 g | C(C)N(CC)CC | C6H15N
reactant | Bromo-isobutyryl bromide | 3.56 mmol, 0.719 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | DCM | ˜20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-2-methyl-propionic acid 11-(diethoxy-phosphoryl)-undecyl ester | 1.050 g, 75% yield | C(C)OP(=O)(OCC)CCCCCCCCCCCOC(C(C)(C)Br)=O | C19H38BrO5P
